US07538241B2
In the same manner as in the step 1 in Example 317, a crude product of 5-[3,5-bis(benzyloxy)-6-bromo-2-ethylphenylmethyl]-3-(2-tetrahydropyran-2-yloxyethyl)-3H-1,3,4-oxadiazol-2-one was obtained from 5-[3,5-bis(benzyloxy)-6-bromo-2-ethylphenylmethyl]-3H-1,3,4-oxadiazol-2-one (1.1 g, 2.1 mmol) obtained in the above, using potassium carbonate (740 mg, 5.4 mmol), 2-(2-bromoethoxy)tetrahydro-2H-pyran (0.49 mL, 3.2 mmol) and N,N-dimethylformamide (15 mL). Thus obtained, 5-[3,5-bis(benzyloxy)-6-bromo-2-ethylphenylmethyl]-3-(2-tetrahydropyran-2-yloxyethyl)-3H-1,3,4-oxadiazol-2-one was dissolved in methanol (30 mL), then treated with methanol solution (10 mL) of 10% hydrogen chloride, and the reaction solution was concentrated under reduced pressure. The resulting residue was purified through silica gel column chromatography (ethyl acetate/hexane=1/1) to obtain 5-[3,5-bis(benzyloxy)-6-bromo-2-ethylphenylmethyl]-3-(2-hydroxyethyl)-3H-1,3,4-oxadiazol-2-one (0.85 g, 75%).

reactant | potassium carbonate | 5.4 mmol, 740 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-(2-bromoethoxy)tetrahydro-2H-pyran | 3.2 mmol, 0.49 mL | BrCCOC1OCCCC1 | C7H13BrO2
reactant | 5-[3,5-bis(benzyloxy)-6-bromo-2-ethylphenylmethyl]-3-(2-tetrahydropyran-2-yloxyethyl)-3H-1,3,4-oxadiazol-2-one | C(C1=CC=CC=C1)OC=1C(=C(C(=C(C1)OCC1=CC=CC=C1)Br)CC1=NN(C(O1)=O)CCOC1OCCCC1)CC | C32H35BrN2O6
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | 30 mL | CO | CH4O
solvent | methanol | 10 mL | CO | CH4O
solvent | N,N-dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
product | 5-[3,5-bis(benzyloxy)-6-bromo-2-ethylphenylmethyl]-3-(2-hydroxyethyl)-3H-1,3,4-oxadiazol-2-one | 0.85 g, 75% | C(C1=CC=CC=C1)OC=1C(=C(C(=C(C1)OCC1=CC=CC=C1)Br)CC1=NN(C(O1)=O)CCO)CC | C27H27BrN2O5
